US06897224B2
1-(2-Ethoxyquinolin-5-ylamino)-4-(5-fluoro-2-methoxyphenyl)-4-methyl-2-(trifluoromethyl)pentan-2-ol
Analogously to Example 20, 500 mg (1.6 mmol) of 4-(5-fluoro-2-methoxyphenyl)-2-hydroxy-4-methyl-2-(trifluoromethyl)pentanal and 363 mg (1.9 mmol) of 5-amino-2-ethoxyquinoline are reacted to form 338 mg of the product.

reactant | 4-(5-fluoro-2-methoxyphenyl)-2-hydroxy-4-methyl-2-(trifluoromethyl)pentanal | 1.6 mmol, 500 mg | FC=1C=CC(=C(C1)C(CC(C=O)(C(F)(F)F)O)(C)C)OC | C14H16F4O3
reactant | 5-amino-2-ethoxyquinoline | 1.9 mmol, 363 mg | NC1=C2C=CC(=NC2=CC=C1)OCC | C11H12N2O
product | 1-(2-Ethoxyquinolin-5-ylamino)-4-(5-fluoro-2-methoxyphenyl)-4-methyl-2-(trifluoromethyl)pentan-2-ol | 338 mg | C(C)OC1=NC2=CC=CC(=C2C=C1)NCC(CC(C)(C)C1=C(C=CC(=C1)F)OC)(O)C(F)(F)F | C25H28F4N2O3
